US08314240B2
690 mg of ethyl 5-[({6-[(tert-butoxycarbonyl)amino]-2,3-dihydro-1H-inden-5-yl}oxy)methyl]pyrazine-2-carboxylate was dissolved in 7.00 mL of ethyl acetate, and 4.17 mL of a 4 M hydrogen chloride/ethyl acetate solution was added thereto, followed by stirring at 50° C. for 3 hours. The reaction liquid was concentrated under reduced pressure, and the obtained residue was solidified by the addition of isopropanol to obtain 712 mg of ethyl 5-{[(6-amino-2,3-dihydro-1H-inden-5-yl)oxy]methyl}pyrazine-2-carboxylate trihydrochloride.

reactant | ethyl 5-[({6-[(tert-butoxycarbonyl)amino]-2,3-dihydro-1H-inden-5-yl}oxy)methyl]pyrazine-2-carboxylate | 690 mg | C(C)(C)(C)OC(=O)NC1=C(C=C2CCCC2=C1)OCC=1N=CC(=NC1)C(=O)OCC | C22H27N3O5
reactant | hydrogen chloride ethyl acetate | 4 M | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 7.00 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 5-{[(6-amino-2,3-dihydro-1H-inden-5-yl)oxy]methyl}pyrazine-2-carboxylate trihydrochloride | 712 mg | Cl.Cl.Cl.NC1=C(C=C2CCCC2=C1)OCC=1N=CC(=NC1)C(=O)OCC | InChI=1S/C17H19N3O3.3ClH/c1-2-22-17(21)15-9-19-13(8-20-15)10-23-16-7-12-5-3-4-11(12)6-14(16)18;;;/h6-9H,2-5,10,18H2,1H3;3*1H
